US06537994B2
1-Hexyl-3-{3-[3-(4-{2-[2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenyl)-3H-imidazo[4,5-b]pyridin-2-yl]-phenyl}-urea
N-(3-{3-[4-(2-{[(2S)-3-(4-{[tert-butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}phenyl)-N′-hexylurea (0.19 g, 0.22 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.067 g, 0.108 mmol).

reactant | N-(3-{3-[4-(2-{[(2S)-3-(4-{[tert-butyl(diphenyl)silyl]oxy}phenoxy)-2-hydroxypropyl]amino}ethyl)phenyl]-3H-imidazo[4,5-b]pyridin-2-yl}phenyl)-N′-hexylurea | 0.22 mmol, 0.19 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(C=C2)N2C(=NC=3C2=NC=CC3)C=3C=C(C=CC3)NC(=O)NCCCCCC)O)C=C1 | C52H60N6O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 1-Hexyl-3-{3-[3-(4-{2-[2-hydroxy-3-(4-hydroxy-phenoxy)-propylamino]-ethyl}-phenyl)-3H-imidazo[4,5-b]pyridin-2-yl]-phenyl}-urea | 0.108 mmol, 0.067 g | C(CCCCC)NC(=O)NC1=CC(=CC=C1)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNCC(COC1=CC=C(C=C1)O)O | C36H42N6O4
